US09422271B2
5-(5-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)-N-(2-methoxyethyl)thiophene-2-sulfonamide (Compound 88)
A mixture of 2-bromo-5-chloro-N-(5-cyclopropyl-1H-pyrazol-3-yl)pyrimidin-4-amine (250 mg, 0.795 mmol), N-(2-methoxyethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-sulfonamide (359 mg, 1.034 mmol, 1.3 eq), Pd(dppf)Cl2 (65 mg, 0.0795 mmol, 0.1 eq) and Na2CO3 (295 mg, 2.783 mmol, 3.5 eq) in 1,4-dioxane (5 mL) and water (1 mL) was stirred at 100° C. under a nitrogen atmosphere for 15 h. The reaction mixture was allowed to cool to room temperature and concentrated to give a residue. The residue was purified by silica gel chromatography (CH2Cl2/methanol 500:1 to 50:1 as eluent) to afford title compound 5-(5-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)-N-(2-methoxyethyl) thiophene-2-sulfonamide (Compound 88) (71.2 mg, 28.1%) as solid. LC-MS (m/z)=455.0 [M+H]+; 1H NMR (400 MHz, DMSO-d6): δ 0.75 (d, J=3.6 Hz, 2H), 0.99 (d, J=6.4 Hz, 2H), 1.94 (s, 1H), 3.04 (t, J=5.2 Hz, 2H), 3.20 (s, 3H), 3.37 (t, J=5.0 Hz, 2H), 6.39 (s, 1H), 7.61 (d, J=3.2 Hz, 1H), 7.77 (d, J=3.6 Hz, 1H), 8.15 (s, 1H), 8.46 (s, 1H), 9.49 (s, 1H), 12.35 (s, 1H).

reactant | 2-bromo-5-chloro-N-(5-cyclopropyl-1H-pyrazol-3-yl)pyrimidin-4-amine | 0.795 mmol, 250 mg | BrC1=NC=C(C(=N1)NC1=NNC(=C1)C1CC1)Cl | C10H9BrClN5
reactant | N-(2-methoxyethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-sulfonamide | 1.034 mmol, 359 mg, 1.3 eq | COCCNS(=O)(=O)C=1SC(=CC1)B1OC(C(O1)(C)C)(C)C | C13H22BNO5S2
reactant | Na2CO3 | 2.783 mmol, 295 mg, 3.5 eq | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.0795 mmol, 65 mg, 0.1 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(5-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-2-yl)-N-(2-methoxyethyl) thiophene-2-sulfonamide | 71.2 mg, 28.1% | ClC=1C(=NC(=NC1)C1=CC=C(S1)S(=O)(=O)NCCOC)NC1=NNC(=C1)C1CC1 | C17H19ClN6O3S2
